US05994270
Potassium carbonate (111 g, 803 mmol) was added to a mixture of 2-hydroxy-l-naphthoic acid (50.0 g, 266 mmol) and methyl iodide (189 g, 1330 mmol) in DMF (500 mL). The resulting mixture was heated at 80° C. overnight, then was partitioned between ether and water. The organic was washed with dilute aqueous HCl, dried (MgSO4), and concentrated to afford methyl 2-methoxynaphthoate as an oil.

reactant | Potassium carbonate | 803 mmol, 111 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxy-l-naphthoic acid | 266 mmol, 50.0 g | OC1=C(C2=CC=CC=C2C=C1)C(=O)O | C11H8O3
reactant | methyl iodide | 1330 mmol, 189 g | CI | CH3I
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
product | methyl 2-methoxynaphthoate | COC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C13H12O3
